US08877780B2
A mixture of 4-bromophthalic anhydride (10.0 g, 44.1 mmol), rac-α-aminoglutarimide hydrochloride (7.25 g, 44.0 mmol) and sodium acetate (3.61 g, 44.0 mmol) in acetic acid (150 mL) was heated to reflux overnight. The reaction mixture was cooled to room temperature, and the solvent was evaporated under vacuum. The residue was stirred in water (170 mL) for 3 hours, and the resulting solid was filtered, washed with additional water (80 mL), and dried under vacuum, to afford 13.8 g of 5-bromo-2-(2,6-dioxo-piperidin-3-yl)-isoindole-1,3-dione, in 93% yield; 1H NMR (DMSO-d6) δ 2.03-2.10 (m, 1H), 2.43-2.63 (m, 2H), 2.82-2.97 (m, 1H), 5.17 (dd, J=12.8 Hz, J=5.3 Hz, 1H), 7.85-7.88 (d, J=7.9 Hz, 1H), 8.10 (dd, J=7.9 Hz, J=1.7 Hz, 1H), 8.16 (d, J=1.7 Hz, 1H), 11.15 (s, 1H); 13C NMR (DMSO-d6) δ 21.9, 30.9, 49.2, 125.3, 126.4, 128.5, 130.1, 133.2, 137.6, 165.9, 166.4, 169.7, 172.7; Anal. Calcd for C13H9N2O4Br: C, 46.32; H, 2.69; N, 8.31. Found: C, 46.23; H, 2.47; N, 8.41.

reactant | 4-bromophthalic anhydride | 44.1 mmol, 10.0 g | BrC=1C=C2C(C(=O)OC2=O)=CC1 | C8H3BrO3
reactant | rac-α-aminoglutarimide hydrochloride | 44.0 mmol, 7.25 g | Cl.NC1C(=O)NC(CC1)=O
reactant | sodium acetate | 44.0 mmol, 3.61 g | C(C)(=O)[O-].[Na+]
solvent | acetic acid | 150 mL | C(C)(=O)O | C2H4O2
product | 5-bromo-2-(2,6-dioxo-piperidin-3-yl)-isoindole-1,3-dione | 13.8 g, 93% yield | BrC=1C=C2C(N(C(C2=CC1)=O)C1C(NC(CC1)=O)=O)=O | C13H9BrN2O4
